* Wurlitzer 200A Preamp — Static Transfer Curve Testbench
* ========================================================
* Slow ramp input to map Vin→Vout transfer curve.
* Reveals asymmetric clipping behavior (the "bark" source).
*
* Stage 1 clipping headroom: ~1.86V toward saturation vs ~10.9V toward cutoff
* → Asymmetric soft-clip, H2 > H3
*
* Source: Vs → R-1 (22K) → preamp input, with LDR at 12K.
* ±500 mV peak — well beyond normal signal range to map clipping.
* 10 Hz is slow enough that capacitor effects are minimal.

.title Preamp Static Transfer Curve

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 trem  wurli_preamp

* Source: very slow sine ramp through R-1
Vin  src 0  DC 0 SIN(0 500M 10 0 0)
R1   src in_sig  22K

* LDR: nominal 12K
Rldr trem 0  12K

* Load resistor
Rload out 0  100K

* Transient: capture 2 full cycles (200ms) with fine time step
.tran 10U 200M 0 10U

.print TRAN V(src) V(in_sig) V(out)

.end
